US07737145B2
A solution of 1,1-dimethylethyl 2-((4-(methoxycarbonyl)phenylmethylamino)methyl)-1-piperidinecarboxylate (0.7 g, 2 mmol) in dichloroethane (10 mL) was treated with acetic acid (180 mg, 3 mmol) and formaldehyde (37% solution in water). After the addition of sodium triacetoxyborohydride (487 mg, 2.3 mmol) the reaction was stirred for 3 days. The reaction was poured into water and extracted with methylene chloride (2×). The organic phase was dried over sodium sulfate, filtered, and concentrated. Purification on silica gel using a gradient of ethyl acetate in hexane gave 0.38 g of 1,1-dimethylethyl 2-(((4-(methoxycarbonyl)phenylmethyl)(methyl)amino)methyl)-1-piperidinecarboxylate.

reactant | 1,1-dimethylethyl 2-((4-(methoxycarbonyl)phenylmethylamino)methyl)-1-piperidinecarboxylate | 2 mmol, 0.7 g | COC(=O)C1=CC=C(C=C1)CNCC1N(CCCC1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | acetic acid | 3 mmol, 180 mg | C(C)(=O)O | C2H4O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | 2.3 mmol, 487 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 1,1-dimethylethyl 2-(((4-(methoxycarbonyl)phenylmethyl)(methyl)amino)methyl)-1-piperidinecarboxylate | 0.38 g | COC(=O)C1=CC=C(C=C1)CN(C)CC1N(CCCC1)C(=O)OC(C)(C)C | C21H32N2O4
